US05654331
a) Methyl 3-tert-butyl-4-benzyloxybenzoate
By reaction of 17 g (82 mmol) of methyl 3-tert-butyl-4-hydroxybenzoate with 10.7 ml (82 mmol) of benzyl bromide in a manner analogous to Example 1(a), 24.4 g (100%) of the expected product are obtained in the form of a colourless oil.

reactant | methyl 3-tert-butyl-4-hydroxybenzoate | 82 mmol, 17 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=CC1O | C12H16O3
reactant | benzyl bromide | 82 mmol, 10.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | Methyl 3-tert-butyl-4-benzyloxybenzoate | 24.4 g, 100% | C(C)(C)(C)C=1C=C(C(=O)OC)C=CC1OCC1=CC=CC=C1 | C19H22O3
